US06355653B1
2-(2-Bromo-phenyl)-N-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-acetamide
The title compound, MS m/e (%): 484,486 (M+H+, 100), was prepared in accordance with the general method of example 31 from 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine and o-bromphenylacetyl chloride.

reactant | 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2N)C2=CC=NC=C2)=N1 | C17H13N5
reactant | o-bromphenylacetyl chloride | BrC1=C(C=CC=C1)CC(=O)Cl | C8H6BrClO
product | 2-(2-Bromo-phenyl)-N-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-acetamide | BrC1=C(C=CC=C1)CC(=O)NC1=CC(=CC=2N1N=C(N2)C2=CC=CC=C2)C2=CC=NC=C2 | C25H18BrN5O
